US08247377B2
5-Amino-N-{2-[(ethyl{[2-(methylsulfonyl)phenyl]carbonyl}amino)methyl]-3,3,3-trifluoro-2-hydroxypropyl}-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide
2-(Methylsulphonyl)benzoic acid (0.204 g, 1.017 mmol) was dissolved in dry dimethylformamide before diisopropylethylamine (0.531 ml, 3.05 mmol) was added. O-7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) (0.464 g, 1.22 mmol) was added and the reaction stirred for 10 minutes. The reaction mixture was cooled in ice and then 5-amino-N-{2-[(ethylamino)methyl]-3,3,3-trifluoro-2-hydroxypropyl}-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide (0.46 g, 1.118 mmol, 1.1 equiv) was added (washed in with dimethylformamide) (total volume of dimethylformamide used 2.5 ml). The reaction was then stirred at room temperature overnight. The reaction mixture was then concentrated under reduced pressure and the residue was partitioned between dichloromethane and water. The product was extracted into dichloromethane and concentrated under reduced pressure. The crude product was purified on silica (50 g) with a 0-100% ethyl acetate:dichloromethane over 40 minutes as gradient to give the title compound (0.53 g).

reactant | 2-(Methylsulphonyl)benzoic acid | 1.017 mmol, 0.204 g | CS(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C8H8O4S
reactant | diisopropylethylamine | 3.05 mmol, 0.531 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,N,N′,N′-tetramethyluronium hexafluorophosphate | 1.22 mmol, 0.464 g | F[P-](F)(F)(F)(F)F.C[N+](=C(O)N(C)C)C
reactant | 5-amino-N-{2-[(ethylamino)methyl]-3,3,3-trifluoro-2-hydroxypropyl}-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | 1.118 mmol, 0.46 g, 1.1 equiv | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CNCC | C16H19F4N5O2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 5-Amino-N-{2-[(ethyl{[2-(methylsulfonyl)phenyl]carbonyl}amino)methyl]-3,3,3-trifluoro-2-hydroxypropyl}-1-(4-fluorophenyl)-1H-pyrazole-4-carboxamide | 0.53 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(=O)NCC(C(F)(F)F)(O)CN(C(=O)C1=C(C=CC=C1)S(=O)(=O)C)CC | C24H25F4N5O5S
